US04486425
4.5 g of t-butyl 3-oxo-4-p-toluenesulphonyloxybutyrate were dissolved in 40 ml of acetic acid, and then 1.42 g of sodium nitrite were added, at room temperature, to the solution over a period of 10 minutes. The mixture was then stirred at room temperature for 50 minutes, after which 200 ml of ethyl acetate were added and the mixture was then washed with an aqueous solution of sodium chloride. The ethyl acetate solution was dried over magnesium sulphate and, after filtering off the drying agent, the filtrate was concentrated by evaporation under reduced pressure to give a brown, oily substance. This oily substance was purified by column chromatography through silica gel, eluted with a 4:1 by volume mixture of cyclohexane and ethyl acetate, affording 1.66 g of t-butyl 2-hydroxyimino-3-oxo-4-p-toluenesulphonyloxybutyrate, in the form of colourless crystals, melting at 106°-108° C. (with decomposition, recrystallized from a 1:1 by volume mixture of diethyl ether and petroleum ether).

reactant | t-butyl 3-oxo-4-p-toluenesulphonyloxybutyrate | 4.5 g | O=C(CC(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C=C1)C | C15H20O6S
reactant | sodium nitrite | 1.42 g | N(=O)[O-].[Na+]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | t-butyl 2-hydroxyimino-3-oxo-4-p-toluenesulphonyloxybutyrate | 1.66 g | ON=C(C(=O)OC(C)(C)C)C(COS(=O)(=O)C1=CC=C(C=C1)C)=O | C15H19NO7S
